US07705108B2
2-dec-1-ynyl-3-decanyldithieno[2,3-d:2′,3′-d′]thieno[3,2-b:4,5-b′]dithiophene (107).
2-Bromo-3-decanyldithieno[2,3-d:2′,3′-d′]thieno[3,2-b:4,5-b′]dithiophene (2.16 g, 4.6 mmol) (106) was mixed with 1-decyne (1.27 g, 9.2 mmolmol), tetrakis(triphenylphosphine)palladium (0.27 g, 0.23 mmol) and copper(I) iodide (0.087 g, 0.46 mmol) in triethylamine (50 mL). This mixture was bubbled with nitrogen for 5 minutes and then heated up to 130° C. under argon for 16 hours. The triethylamine was evaporated and hexane (150 mL) was added. This mixture was filtered to remove solid salts. The organic layer was washed with 1 M hydrochloric acid (50 mL) and brine (50 mL), then dried over MgSO4. The solvent was removed in vacuo, and the residue was purified by chromatography on silica gel eluted with hexane to produce the target compound (2.3 g, 90.2%). 1HNMR: Solvent CD2Cl2. δ 7.41 (d, 1H), 7.33 (d, 1H), 2.84 (t, 2H), 2.23 (t, 2H), 1.73-1.27 (m, 28H), 0.89 (m, 6H).

reactant | 2-Bromo-3-decanyldithieno[2,3-d:2′,3′-d′]thieno[3,2-b:4,5-b′]dithiophene | 4.6 mmol, 2.16 g | BrC1=C(C2=C(C3=C(S2)C=2SC4=C(C2S3)SC=C4)S1)CCCCCCCCCC | C22H23BrS5
reactant | 1-decyne | 1.27 g | C#CCCCCCCCC | C10H18
reactant | triethylamine | 50 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.23 mmol, 0.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.46 mmol, 0.087 g | [Cu]I
product | 2-dec-1-ynyl-3-decanyldithieno[2,3-d:2′,3′-d′]thieno[3,2-b:4,5-b′]dithiophene | 2.3 g, 90.2% | C(#CCCCCCCCC)C1=C(C2=C(C3=C(S2)C=2SC4=C(C2S3)SC=C4)S1)CCCCCCCCCC | C32H40S5
